* Netlist gerada automaticamente a partir do circuit.json
.tran 1

R1 N001 N002 47k
R2 N002 N003 22
R3 N001 N002 680k
R4 N002 0 3.9
R5 N003 0 3.9
I1 0 N001 0.05

.end